US07442708B2
1-Methoxy-2-methyl-3-[(3-nitrophenyl)sulphonyl]indolizine
This compound is prepared according to the protocol described for the example above, by sulphonylation of 1 g (6.2 mmol) of 1-methoxy-2-methylindolizine with 3-nitrobenzenesulphonyl chloride. 540 mg of a yellow oil are obtained.

reactant | 1-methoxy-2-methylindolizine | 6.2 mmol, 1 g | COC=1C(=CN2C=CC=CC12)C | C10H11NO
reactant | 3-nitrobenzenesulphonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
product | 1-Methoxy-2-methyl-3-[(3-nitrophenyl)sulphonyl]indolizine | 540 mg, Yield: 98% | COC=1C(=C(N2C=CC=CC12)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C16H14N2O5S
